US07750012B2
1-Benzyl-4-(4-p-tolyloxy-phenyl]-piperazine:
The title compound (103 mg, 14.3%) was prepared from 4-(4-benzyl-piperazin-1-yl)-phenol (530 mg, 2 mmol) and 1-iodo-4-methyl-benzene (430 mg, 2 mmol) by the procedures described in step 2 of Example 17: MS (ESI) m/z 359 (M+H); 1H NMR (400 MHz, CDCl3) δ 2.30 (s, 3H), 2.62 (t, J=4.8 Hz, 4H), 3.15 (t, J=4.8 Hz, 4H), 3.57 (s, 2H), 6.84-6.94 (m, 6H), 7.08 (dd, J=0.6, 8.4 Hz, 2H), 7.31-7.35 (m, 5H).

reactant | 4-(4-benzyl-piperazin-1-yl)-phenol | 2 mmol, 530 mg | C(C1=CC=CC=C1)N1CCN(CC1)C1=CC=C(C=C1)O | C17H20N2O
reactant | 1-iodo-4-methyl-benzene | 2 mmol, 430 mg | IC1=CC=C(C=C1)C | C7H7I
product | 1-Benzyl-4-(4-p-tolyloxy-phenyl]-piperazine | 103 mg, 14.3% | C(C1=CC=CC=C1)N1CCN(CC1)C1=CC=C(C=C1)OC1=CC=C(C=C1)C | C24H26N2O
